US04467108
187 g of a solution of 19.5% butyllithium in cyclohexane (36.4 g of butyllithium) were added over 5 minutes at -40° C. under argon to 500 ml of tetrahydrofuran and then 57.5 g of diisopropylamine were added over 5 minutes at -40° C. The mixture was stirred at -40° C. for 30 minutes and 66 g of tert.-butyl acetate were added thereto at -40° C. The mixture was stirred at -40° C. for 30 minutes and then 27.5 g (≃0.55 mole per mole of tert.-butyl acetate) of ethyl acetate were added at -40° C. over 30 minutes. The mixture was stirred at -40° C. for two hours and the temperature allowed to rise to 20° C. under reduced pressure. The mixture was evaporated to dryness under reduced pressure at 20° C. and the residue was taken up in 200 ml of methylene chloride. The solution was cooled to 0° C. and 100 ml of water were added. The decanted aqueous phase was extracted with methylene chloride and the combined organic phases were adjusted to a pH of 1 by addition of 22° Be hydrochloric acid. The organic phase was washed with water, dried and evaporated to dryness under reduced pressure to obtain a lightly colored liquid which was rectified at 1 mm Hg to obtain 25 g of ditert.-butyl 3-methyl-3-hydroxy-glutarate with a boiling point of 95°±` C. at1 mm Hg.

reactant | butyllithium | C(CCC)[Li]
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
reactant | diisopropylamine | 57.5 g | C(C)(C)NC(C)C | C6H15N
reactant | tert.-butyl acetate | 66 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | ethyl acetate | 27.5 g | C(C)(=O)OCC | C4H8O2
solvent | cyclohexane | 36.4 g | C1CCCCC1 | C6H12
product | ditert.-butyl 3-methyl-3-hydroxy-glutarate | 25 g | CC(CC(=O)OC(C)(C)C)(CC(=O)OC(C)(C)C)O | C14H26O5
